US06265426B1
1-Allyl-5-(4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride (1:1)
A solution of mixture of 3-[2-allyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde and 3-[-allyl-5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzaldehyde (1:1) (60 mg, 0.19 mmol), pyrrolidine (19 μl, 5 0.23 mmol) and acetic acid (13 μl, 0.023 mmol) in THF (5 ml) was stirred for 15 min at r.t then sodium triacetoxyborohydride (59 mg, 0.28 mmol) was added in a single portion. This mixture was allowed to react at r.t. under argon until all the aldehyde had been consumed (ca. 1.5 hr). Saturated aqueous Na2CO3 solution was then added, stirred for 15 min and extracted twice with EtOAc (20 ml). The combined organic phase was dried with Na2SO4 filtered and the solvent evaporated under reduced pressure. The resulting isomeric mixture, obtained as an oil, was chromatographed over SiO2 (Merck 230-400 mesh) using CH2Cl2/(2M NH3 in MeOH) 97:3, to provide the separate regioisomers. The isolated regioisomer was taken up in ethanol and was directly converted to its hydrochloride salt with 1.45N HCl/EtOH at 4° C. Following solvent evaporation the resulting pale yellow foam was dried under high vacuum (0.05 mmHg) at 50° C. for 3 h to afford the title compound (30 mg, 0.07 mmol, 38.8%), MS: m/e=375.5 (M+H+). The regiochemistry of alkylation was established by 1H-NMR, nOe spectroscopy.

reactant | 3-[2-allyl-5-(4-methoxy-phenyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde | C(C=C)N1N=C(N=C1C=1C=C(C=O)C=CC1)C1=CC=C(C=C1)OC | C19H17N3O2
reactant | 3-[-allyl-5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzaldehyde | 0.19 mmol, 60 mg | C(C=C)N1N=C(N=C1C1=CC=C(C=C1)OC)C=1C=C(C=O)C=CC1 | C19H17N3O2
reactant | pyrrolidine | 0.23 mmol, 19 μl | N1CCCC1 | C4H9N
reactant | acetic acid | 0.023 mmol, 13 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.28 mmol, 59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl EtOH | 1.45N | Cl.CCO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-Allyl-5-(4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride | 0.07 mmol, 30 mg, 38.8% | Cl.C(C=C)N1N=C(N=C1C1=CC=C(C=C1)OC)C1=CC(=CC=C1)CN1CCCC1 | InChI=1S/C23H26N4O.ClH/c1-3-13-27-23(19-9-11-21(28-2)12-10-19)24-22(25-27)20-8-6-7-18(16-20)17-26-14-4-5-15-26;/h3,6-12,16H,1,4-5,13-15,17H2,2H3;1H
